US05198208
(a) 2-Benzyloxymethyl-2-hydroxy-1-phthalimido-ethane
Freshly distilled benzyl-glycidylether (60 g, 0.365 mmol), phthalimide (49.2 g, 0.304 mmol) and potassium carbonate (3.34 g, 24 mmol) were refluxed with stirring in ethanol (500 ml) for 27 hours. TLC indicated full conversion of the starting material. Ethanol was removed in vacuo. The residual oily material was transferred to a 2 l separation funnel and distributed between ethyl acetate (800 ml) and water (500 ml). The aqueous phase was extracted with ethyl acetate (200 ml), and the combined organic phases were washed with water (300 ml), dried over magnesium sulphate, filtered and concentrated in vacuo. The residual oily material (115 g) was diluted with an equal amount (w/v) of ether (115 ml) and allowed to stand for several days. Crystals were collected on a glass sinter and air dried with suction for 1 hour; then dried under vacuum to constant weight. Yield: 81.5 g (72%). The mother liquor was diluted with ether and seeded with crystals from the first crop. Total yield: 80%. TLC indicated one spot. Structure was confirmed by NMR and IR.

reactant | benzyl-glycidylether | 0.365 mmol, 60 g | C(C1=CC=CC=C1)OCC1CO1 | C10H12O2
reactant | phthalimide | 0.304 mmol, 49.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium carbonate | 24 mmol, 3.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-Benzyloxymethyl-2-hydroxy-1-phthalimido-ethane | yield: 80% | C(C1=CC=CC=C1)OCC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C18H17NO4
